US05412104
Then a solution of the 1-hexyl-3-ethoxycarbonyl-4-hydroxy-6-methyl-2(1H)-quinolinone (12.4 g) in dichloromethane (50 ml ) and methanol (10 ml) was treated with excess diazomethane in ether for 10 mins. This solution was then evaporated. The crude methylation product upon chromatography on silica gel yielded 1-hexyl-3-ethoxycarbonyl-4-methoxy-6-methyl-2(1H)-quinolinone (11.5 g). The 1-hexyl-3-ethoxycarbonyl-4-methoxy-6-methyl-2(1H)-quinolinone (7.13 g) in dry toluene (80 ml) was cooled to -78° C. and then a 1M solution of di-isobutyl aluminum hydride (30 ml) was added dropwise in 10 min. After 2.5 hours of stirring at -78° C. the reaction mixture was worked up by stirring with aqueous ammonium chloride/1N hydrochloric acid which was then followed by extraction with methylene chloride. The crude reduction product was chromatographed on silica gel and then crystallized from ethyl acetate/hexane to give 1-hexyl- 3-formyl-4-methoxy-6-methyl-2(1H)-quinolinone. That the expected product was obtained was confirmed by the spectral data: MS(CI): m/e 302 (M+): NMR (CDCl3): δ2.42 (s, 3H, Ar-CH3), 4.10 (s, 3H, OCH3), 10.50 (s, 1H, CHO).

reactant | 1-hexyl-3-ethoxycarbonyl-4-methoxy-6-methyl-2(1H)-quinolinone | 7.13 g | C(CCCCC)N1C(C(=C(C2=CC(=CC=C12)C)OC)C(=O)OCC)=O | C20H27NO4
reactant | di-isobutyl aluminum hydride | 30 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 1N | [Cl-].[NH4+]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hexyl- 3-formyl-4-methoxy-6-methyl-2(1H)-quinolinone | C(CCCCC)N1C(C(=C(C2=CC(=CC=C12)C)OC)C=O)=O | C18H23NO3
